US07662972B2
N-[4-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzoyl]glycine (Compound of the Present Invention No. 5-127)
In a solution of 2.6 g of methyl N-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzoyl]glycine (Compound of the present invention No. 5-128) synthesized similarly to Synthetic Example 5 in 10 ml of methanol, a solution of 1.0 g of potassium hydroxide in 10 ml of water was added with stirring at room temperature, and stirred at the same temperature for further 1 hour. After the completion of the reaction, 10 ml of 12N hydrochloric acid was added and extracted with ethyl acetate (50 ml×1), the organic phase was dehydrated with saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to obtain 2.4 g of the aimed product as pale yellow resinous substance.

reactant | methyl N-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzoyl]glycine | 2.6 g | CN(CC(=O)O)C(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C21H17Cl2F3N2O4
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | hydrochloric acid | 12N, 10 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | N-[4-[5-(3,5-Dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-2-methylbenzoyl]glycine | 2.4 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)NCC(=O)O)C=C1)C)C(F)(F)F | C20H15Cl2F3N2O4
